US07465815B2
3-(4-Isopropylphenyl)-4-methyl-3,6,7,8-tetrahydro-2H-indeno[4,5-b]furan
Using 3-(4-isopropylphenyl)-4-methyl-7,8-dihydro-6H-indeno[4,5-b]furan obtained in Reference Example 197, the title compound was synthesized in the same manner as in Reference Example 199. Yield 59%. Melting point: 77-78° C. (methanol).

reactant | 3-(4-isopropylphenyl)-4-methyl-7,8-dihydro-6H-indeno[4,5-b]furan | C(C)(C)C1=CC=C(C=C1)C=1C2=C(OC1)C=1CCCC1C=C2C | C21H22O
solvent | methanol | CO | CH4O
product | 3-(4-Isopropylphenyl)-4-methyl-3,6,7,8-tetrahydro-2H-indeno[4,5-b]furan | Yield 59% | C(C)(C)C1=CC=C(C=C1)C1C2=C(OC1)C=1CCCC1C=C2C | C21H24O
